US06831080B2
Preparation of (S)-N-{1-[3-(2-Hydroxymethyl-morpholin-4-yl)-phenyl]-ethyl}-3-phenyl-acrylamide
Mixture of (S)-{4-[3-(1-amino-ethyl)-phenyl]-morpholin-2-yl}-methanol (27 mg, 0.09 mmol), cinnamic acid, Preparation 27 (12.8 mg, 0.09 mmol), EDC (34 mg, 0.18 mmol), DMAP (11 mg, 0.09 mmol), triethylamine (0.05 ml, 0.36 mmol) in dichloromethane (0.6 ml) was stirred at room temperature overnight. The reaction mixture was purified by filtering through 2 g silica-gel syringe with 60:40:1 acetone:hexanes:methanol. The filtrate was concentrated under vacuum to provide the title compound as a white solid.

reactant | (S)-{4-[3-(1-amino-ethyl)-phenyl]-morpholin-2-yl}-methanol | 0.09 mmol, 27 mg | NC(C)C=1C=C(C=CC1)N1C[C@H](OCC1)CO | C13H20N2O2
reactant | cinnamic acid | C(C=CC1=CC=CC=C1)(=O)O | C9H8O2
reactant | EDC | 0.18 mmol, 34 mg
reactant | triethylamine | 0.36 mmol, 0.05 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 0.09 mmol, 11 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 0.6 ml | ClCCl | CH2Cl2
product | (S)-N-{1-[3-(2-Hydroxymethyl-morpholin-4-yl)-phenyl]-ethyl}-3-phenyl-acrylamide | OCC1CN(CCO1)C=1C=C(C=CC1)[C@H](C)NC(C=CC1=CC=CC=C1)=O | C22H26N2O3
